US07125901B2
A mixture of ethyl (2E)-3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]acrylate and ethyl (2Z)-3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]acrylate (200 mg), THF (7 ml) and 10% Pd/C (392 mg) were combined under nitrogen atmosphere. The mixture was stirred under 3 atm hydrogen atmosphere at 20° C. for 3 h. The reaction mixture was filtered through a celite pad, and the filtrate was concentrated in vacuo to give ethyl 3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]propanoate as a colorless amorphous.

reactant | ethyl (2E)-3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]acrylate | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)/C=C/C(=O)OCC | C23H29N3O5S
reactant | ethyl (2Z)-3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]acrylate | 200 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)\C=C/C(=O)OCC | C23H29N3O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 392 mg | [Pd] | Pd
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | ethyl 3-[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]propanoate | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)CCC(=O)OCC | C23H31N3O5S
